US04645771
A mixture of 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride (1.0 g.), pyridine (7 ml.) and acetic anhydride (7 ml.) was kept at 20°-25° C. for 17 hours. The solid which formed was collected and washed with ether (50 ml.) to yield 1-(4-acetoxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride (1.1 g.), m.p. 220°-222° C.

reactant | 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride | 1.0 g | Cl.OC1=CC=C(CN2CCC=CC2)C=C1
reactant | acetic anhydride | 7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-acetoxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride | 1.1 g | Cl.C(C)(=O)OC1=CC=C(CN2CCC=CC2)C=C1 | InChI=1S/C14H17NO2.ClH/c1-12(16)17-14-7-5-13(6-8-14)11-15-9-3-2-4-10-15;/h2-3,5-8H,4,9-11H2,1H3;1H
